* File: XOR2_4T.pex.netlist.pex
* Created: Thu Dec  4 22:58:08 2025
* Program "Calibre xACT"
* Version "v2024.4_39.16"
* Nominal Temperature: 25C
* Circuit Temperature: 27C
* 
.subckt PM_XOR2_4T_VSS 3 22 23 27 33
c25 33 0 0.0056945f
c26 23 0 0.00185437f
c27 3 0 0.0259289f
r28 42 43 6.29612
r29 35 42 39.8754
r30 33 43 0.932759
r31 19 23 0.314815
r32 19 22 0.314815
r33 19 20 31.2384
r34 17 35 96.0901
r35 17 20 13.851
r36 3 35 9.65625
r37 3 17 0.294702
.ends

.subckt PM_XOR2_4T_VDD 7 16 20
c18 20 0 0.00798902f
c19 7 0 0.0261895f
r20 27 28 7.22888
r21 26 30 20.9871
r22 26 28 14.691
r23 22 27 3.26466
r24 20 30 0.932759
r25 10 11 51.2835
r26 9 10 74.5942
r27 8 9 51.2835
r28 7 26 14.4844
r29 7 11 37.2971
r30 2 22 9.65625
r31 2 8 37.2971
.ends

.subckt PM_XOR2_4T_B 4 8 12 15 17 18 19 29 33 34 42 43 45 55
c61 55 0 6.90705e-19
c62 45 0 4.98693e-19
c63 43 0 3.09287e-19
c64 42 0 3.34208e-19
c65 34 0 0.0027195f
c66 19 0 0.00420405f
c67 18 0 0.011368f
c68 15 0 0.00108156f
c69 12 0 0.00177638f
c70 8 0 0.00154692f
c71 4 0 0.00192065f
r72 55 56 4.19742
r73 53 56 2.09871
r74 50 51 0.932759
r75 49 50 6.52931
r76 48 49 5.13017
r77 47 48 2.09871
r78 46 47 5.13017
r79 45 51 2.09871
r80 43 46 1.16595
r81 41 43 1.02627
r82 41 42 4.66379
r83 40 53 0.107873
r84 40 42 1.16595
r85 38 39 8.39483
r86 34 53 2.09871
r87 34 38 4.19742
r88 33 39 8.62802
r89 15 29 0.185185
r90 12 45 19.38
r91 12 15 14.4404
r92 8 55 19.38
r93 8 17 24.1072
r94 8 19 19.2857
r95 4 38 19.38
r96 4 18 19.2857
.ends

.subckt PM_XOR2_4T_A 4 8 12 17 18 19 29 33 38 43 48 55 56 57 58 63 66 72
c67 72 0 0.0011788f
c68 66 0 7.88585e-19
c69 63 0 0.00107943f
c70 58 0 4.73732e-19
c71 57 0 5.04132e-19
c72 56 0 6.01681e-19
c73 55 0 7.60811e-19
c74 48 0 5.1492e-19
c75 43 0 3.11044e-19
c76 38 0 0.00122799f
c77 29 0 8.25783e-19
c78 19 0 0.0195151f
c79 18 0 1.06505e-19
c80 12 0 0.00145921f
c81 8 0 0.0015518f
c82 4 0 0.00109325f
r83 74 75 2.09871
r84 72 75 2.09871
r85 68 69 2.09871
r86 66 69 2.09871
r87 61 63 6.29612
r88 59 68 0.107873
r89 58 74 0.107873
r90 58 59 8.39483
r91 56 68 0.107873
r92 56 57 8.39483
r93 55 63 0.107873
r94 54 57 1.02627
r95 54 55 10.4935
r96 48 72 19.535
r97 43 66 19.535
r98 38 61 19.535
r99 38 39 2.09871
r100 33 39 20.9871
r101 15 38 19.38
r102 12 29 0.185185
r103 12 15 7.95695
r104 8 48 19.38
r105 8 19 19.2857
r106 4 43 19.38
r107 4 17 24.1072
r108 4 18 19.2857
.ends

.subckt PM_XOR2_4T_NET3 2 8 15 18 21 22 23 24 40
c38 40 0 9.67039e-19
c39 23 0 8.51774e-19
c40 21 0 0.0271581f
c41 18 0 0.0271234f
c42 15 0 0.00404446f
c43 8 0 6.46746e-19
c44 2 0 0.00262443f
r45 42 43 0.932759
r46 41 42 6.52931
r47 40 43 14.691
r48 37 41 3.03147
r49 37 38 4.19742
r50 34 38 20.9871
r51 18 24 0.277778
r52 18 19 15.9139
r53 15 40 19.38
r54 15 19 10.0199
r55 11 23 0.314815
r56 11 22 0.314815
r57 11 12 15.9139
r58 8 37 19.38
r59 8 12 10.0199
r60 5 21 0.277778
r61 2 34 19.38
r62 2 5 25.9338
.ends

.subckt PM_XOR2_4T_Y 2 8 12 13 16 17 20 21 28 39
c45 39 0 0.00266343f
c46 28 0 9.66057e-19
c47 21 0 9.71017e-19
c48 17 0 8.23165e-19
c49 13 0 0.00307812f
c50 8 0 5.79127e-19
c51 2 0 5.61363e-19
r52 42 43 4.66379
r53 41 42 4.19742
r54 40 41 4.66379
r55 37 43 4.19742
r56 36 39 7.22888
r57 34 35 6.29612
r58 33 34 4.19742
r59 32 33 2.09871
r60 30 32 2.09871
r61 28 36 1.02627
r62 28 35 2.09871
r63 26 27 4.19742
r64 25 26 2.09871
r65 23 25 14.691
r66 21 37 1.02627
r67 21 27 8.39483
r68 20 40 2.79828
r69 20 39 3.73104
r70 8 30 19.38
r71 8 13 0.314815
r72 8 12 0.314815
r73 5 23 19.38
r74 2 17 0.209877
r75 2 16 0.209877
r76 2 5 18.5662
.ends

